US07842688B2
c) Benzyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The mixture of 2.45 g of benzyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate, 16 ml of tetrahydrofuran and 16 ml of 2N NaOH is stirred at reflux over 18 hours. The reaction mixture is cooled, admixed with 20 ml of 2N HCl and extracted with tert-butyl methyl ether (3×50 ml). The organic phases are washed successively with water (40 ml) and brine (40 ml), dried over sodium sulphate, filtered and concentrated by evaporation to obtain the crude title compound as a white foam. Rt=4.45.

reactant | benzyl 4-(4-methoxycarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 2.45 g | COC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C34H38N2O8
reactant | NaOH | 2N, 16 ml | [OH-].[Na+]
reactant | HCl | 2N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
product | Benzyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | C(=O)(O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C33H36N2O8
